US06277778B1
Dimethylbis(2-(tert-butyldimethylsiloxy)indenyl)silane
To a solution of 2-(tert-butyldimethylsiloxy)indene (12.32 g, 50.0 mmol) in Et2O (50 mL) at 0° C. was added dropwise n-BuLi (20.0 mL of a 2.5 M solution in hexane, 50.0 mmol) and the reaction mixture was stirred overnight at room temperature. The resulting solution was then added dropwise to a solution of dimethyldichlorosilane (3.03 mL, 25.0 mmol) in Et2O (25 mL) at 0° C. The reaction mixture was stirred overnight at room temperature and washed with saturated ammonium chloride solution (150 mL), water (3×100 mL) and dried over sodium sulfate. Evaporation of the solvents left a red oil that was dissolved in a 1:1 mixture of MeOH and acetone. Concentration and cooling to −30° C. gave 5.78 g (42.1%) of the title compound as slightly yellow crystals. The first crop consisted exclusively of the racemic diastereomer. EIMS (calcd/found): m/e 548.2962/548.2958. Mp: 92-94° C. 1H NMR (CDCl3, δ): 7.22-7.14 (m, 6H); 6.98 (td, 3J=7.3 Hz, 4J=1.4 Hz, 2H); 5.85 (s, 2H); 3.99 (s, 2H); 0.97 (s, 18H); 0.34 (s, 6H); 0.28 (s, 6H); −0.23 (s, 6H). 13C NMR (CDCl3, δ): 164.96; 144.44; 137.55; 125.13; 122.75; 121.41; 118.83; 104.00; 43.06; 25.77; 18.20; 4.34; −4.88; −6.99. The oily residue was washed with copiously with cold MeOH (3×50 mL), cold pentane (50 mL) and dried in vacuo to yield 3.47 g (24.8%) of the fairly pure meso diastereomer as a red oil (total yield 66.9%).

reactant | 2-(tert-butyldimethylsiloxy)indene | 50.0 mmol, 12.32 g | O([Si](C)(C)C(C)(C)C)C=1CC2=CC=CC=C2C1 | C15H22OSi
reactant | n-BuLi | [Li]CCCC
reactant | dimethyldichlorosilane | 25.0 mmol, 3.03 mL | C[Si](Cl)(Cl)C | C2H6Cl2Si
solvent | Et2O | 50 mL | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | Dimethylbis(2-(tert-butyldimethylsiloxy)indenyl)silane | 5.78 g, 42.1% | C[Si](C1C(=CC2=CC=CC=C12)O[Si](C)(C)C(C)(C)C)(C1C(=CC2=CC=CC=C12)O[Si](C)(C)C(C)(C)C)C | C32H48O2Si3
